US07220862B2
5-Bromo-7-methyl-1H-indole
5-Bromo-7-methyl-1H-indole-2-carboxylic acid ethyl ester (5.3 g, 18.7 mmol) was added to a potassium hydroxide solution in 1:1 water/ethanol mixture (20 mL) and heated at reflux for 12 h. After cooling to room temperature, the solvents were removed in vacuo and the resultant residue transferred to a 6N hydrochloric acid solution (20 mL). The white precipitate that formed was filtered, washed severally with water, and dried for several hours. The crude solid was dissolved in quinoline (14 mL) and heated at reflux for 4 h. After cooling to room temperature, the crude mixture was poured into a mixture of ice water (100 mL) and concentrated hydrochloric acid (16 mL), extracted with ethyl acetate (2×), brine (2×), dried over sodium sulfate, and concentrated. Attempts to recrystallize the desired product from isopropanol resulted in significant decomposition. The title compound was obtained by flash chromatography on silica get to afford 1.5 g (38%, 2 steps). LC/MS: tR=1.72 min, 210.05 (MH)+.

reactant | 5-Bromo-7-methyl-1H-indole-2-carboxylic acid ethyl ester | 18.7 mmol, 5.3 g | C(C)OC(=O)C=1NC2=C(C=C(C=C2C1)Br)C | C12H12BrNO2
reactant | potassium hydroxide | [OH-].[K+]
solvent | water ethanol | 20 mL | O.C(C)O
product | 5-Bromo-7-methyl-1H-indole | BrC=1C=C2C=CNC2=C(C1)C | C9H8BrN
